datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC1=CC=C([CH:21](C(=O)C2=C[N+](C)=CC=C2)[H:20])C=C1.CCC[O-:10]>>CC1=CC=C([CH-:21]C(=O)C2=C[N+](C)=CC=C2)C=C1.CCC[O:10][H:20] 10=20;20,21=21",
"O=Cc1cc(Br)cc([N+](=O)[O-])c1[O-:10].[NH3+]c1ccccc1C(=O)N[NH2+:21][H:20]>>O=Cc1cc(Br)cc([N+](=O)[O-])c1[O:10][H:20].[NH3+]c1ccccc1C(=O)N[NH2:21] 10=20;20,21=21",
"Nc1ccc(S(=O)(=O)[N:21](c2ccc(O)cn2)[H:20])cc1.c1cc(-c2ccncc2)c[n:10]c1>>Nc1ccc(S(=O)(=O)[N-:21]c2ccc(O)cn2)cc1.c1cc(-c2ccncc2)c[n+:10]([H:20])c1 10=20;20,21=21",
"CC(C)C(C(=O)[O-])[NH2+:21][H:20].O=C([O-])c1ccc([NH-:10])c2cccnc12>>CC(C)C(C(=O)[O-])[NH2:21].O=C([O-])c1ccc([NH:10][H:20])c2cccnc12 10=20;20,21=21",
"COCCSC(C)[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C(Cl)C=C2)[H:20])C=C1>>COCCSC(C)[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C(Cl)C=C2)C=C1 10=20;20,21=21",
"Cc1c[nH]cc1C(=O)[O-:10].c1cc[n+:21]([H:20])c(-c2cc[nH+]cc2)c1>>Cc1c[nH]cc1C(=O)[O:10][H:20].c1cc[n:21]c(-c2cc[nH+]cc2)c1 10=20;20,21=21",
"O=C(NCCC[N+:21]1([H:20])CCOCC1)c1ccc(Cl)cc1.O=S1(=O)N=C[N-:10]c2ccncc21>>O=C(NCCC[N:21]1CCOCC1)c1ccc(Cl)cc1.O=S1(=O)N=C[N:10]([H:20])c2ccncc21 10=20;20,21=21",
"C=CCc1ccc2cccnc2c1[O-:10].Nc1ccc(B(O)[O:21][H:20])c([N+](=O)[O-])c1>>C=CCc1ccc2cccnc2c1[O:10][H:20].Nc1ccc(B(O)[O-:21])c([N+](=O)[O-])c1 10=20;20,21=21",
"CC[NH+](CC)CCCCCCCC(C)Nc1c2cc(OC)ccc2[n:10]c2cc(Cl)ccc12.Cc1cc(C(=O)[O:21][H:20])c[nH]1>>CC[NH+](CC)CCCCCCCC(C)Nc1c2cc(OC)ccc2[n+:10]([H:20])c2cc(Cl)ccc12.Cc1cc(C(=O)[O-:21])c[nH]1 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1.c1c(CN2CCNCC[NH:10]CC2)n[nH]c1CN1CCNCCNCC1>>C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1.c1c(CN2CCNCC[NH+:10]([H:20])CC2)n[nH]c1CN1CCNCCNCC1 10=20;20,21=21",
"CCCCCCCCCCCCCCC[NH2:10].O=C(C(F)c1ccccc1)[O:21][H:20]>>CCCCCCCCCCCCCCC[NH2+:10][H:20].O=C(C(F)c1ccccc1)[O-:21] 10=20;20,21=21",
"O=C(Cc1cccc2ccccc12)[O:21][H:20].[NH3+]C(Cc1c[nH]c[n:10]1)C(=O)NCC(=O)[O-]>>O=C(Cc1cccc2ccccc12)[O-:21].[NH3+]C(Cc1c[nH]c[n+:10]1[H:20])C(=O)NCC(=O)[O-] 10=20;20,21=21",
"CCCC[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C(C(F)(F)F)C=C2)[H:20])C=C1>>CCCC[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C(C(F)(F)F)C=C2)C=C1 10=20;20,21=21",
"CSc1cccc2c1ccc[n:10]2.O=C([O-])Cc1[nH]c2ccccc2[n+:21]1[H:20]>>CSc1cccc2c1ccc[n+:10]2[H:20].O=C([O-])Cc1[nH]c2ccccc2[n:21]1 10=20;20,21=21",
"C[NH:10]CC(=O)NCCc1c[nH]cn1.NC(CC[NH+:21](c1ccccc1)[H:20])=NO>>C[NH+:10](CC(=O)NCCc1c[nH]cn1)[H:20].NC(CC[NH:21]c1ccccc1)=NO 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1cncc(CCC[NH2:10])c1>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1cncc(CCC[NH2+:10][H:20])c1 10=20;20,21=21",
"CC(=O)c1ccccc1[NH2:10].O=C1C[C@@H](C(=O)[O:21][H:20])[C@@H](C(=O)[O-])O1>>CC(=O)c1ccccc1[NH2+:10][H:20].O=C1C[C@@H](C(=O)[O-:21])[C@@H](C(=O)[O-])O1 10=20;20,21=21",
"CCOC(=O)N1CCc2noc([O-:10])c2CC1.C[n+]1ccc2c([O:21][H:20])cccc2c1>>CCOC(=O)N1CCc2noc([O:10][H:20])c2CC1.C[n+]1ccc2c([O-:21])cccc2c1 10=20;20,21=21",
"Cc1[nH]cnc1CSCCNC(=[NH2+])NCCCc1c[nH]c[n+:21]1[H:20].O=C([O-])CN(CC(=O)[O-:10])Cc1cc(Cl)cc(C[NH+](CC(=O)[O-])CC(=O)O)c1O>>Cc1[nH]cnc1CSCCNC(=[NH2+])NCCCc1c[nH]c[n:21]1.O=C([O-])CN(CC(=O)[O:10][H:20])Cc1cc(Cl)cc(C[NH+](CC(=O)[O-])CC(=O)O)c1O 10=20;20,21=21",
"CCC[N:10](CCC)CCC.Cc1nc(N)c2cnn(C)c2[n+:21]1[H:20]>>CCC[N+:10](CCC)(CCC)[H:20].Cc1nc(N)c2cnn(C)c2[n:21]1 10=20;20,21=21",
"CC[NH:10]CCN.N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CC[NH+:10](CCN)[H:20].N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"CNC(=O)C=C(c1ccc2c(c1)n(C(C)C)c(N)[n+:21]2[H:20])c1cccc(F)c1F.O=[N+]([O-])c1ccc([N-:10]C=S)cc1>>CNC(=O)C=C(c1ccc2c(c1)n(C(C)C)c(N)[n:21]2)c1cccc(F)c1F.O=[N+]([O-])c1ccc([N:10](C=S)[H:20])cc1 10=20;20,21=21",
"C[NH+:21](CCc1ccccc1)[H:20].O=C1Oc2cc([O-:10])ccc2C=C1c1nc2cc(Cl)ccc2o1>>C[NH:21]CCc1ccccc1.O=C1Oc2cc([O:10][H:20])ccc2C=C1c1nc2cc(Cl)ccc2o1 10=20;20,21=21",
"CC(C)(C)c1ccc(O)c(C[N+:21](C)(C)[H:20])c1.C[N+](C)(C)c1ccc([O-:10])cc1>>CC(C)(C)c1ccc(O)c(C[N:21](C)C)c1.C[N+](C)(C)c1ccc([O:10][H:20])cc1 10=20;20,21=21",
"O=[N+]([O-])c1c(Cl)nc[n:21]1[H:20].c1cc([O-:10])cc[nH+]1>>O=[N+]([O-])c1c(Cl)nc[n-:21]1.c1cc([O:10][H:20])cc[nH+]1 10=20;20,21=21",
"C[NH+:21]([C@H]1CCCC[C@@H]1O)[H:20].Oc1ccc2c(ccc[n:10]2)c1>>C[NH:21][C@H]1CCCC[C@@H]1O.Oc1ccc2c(ccc[n+:10]2[H:20])c1 10=20;20,21=21",
"Cc1nc2c([O:21][H:20])ccc(O)c2n1C.O=C(O[N-:10]C(=O)c1ccccc1)c1ccccc1>>Cc1nc2c([O-:21])ccc(O)c2n1C.O=C(O[N:10](C(=O)c1ccccc1)[H:20])c1ccccc1 10=20;20,21=21",
"[H:20][OH:21].C1=CC=C(C=C1)C2=N[N+](=[C-:10]N2C3=CC=CC=C3)C4=CC=CC=C4>>[H:20][C:10]1=[N+](N=C(N1C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4.[OH-:21] 10=20;20,21=21",
"Cc1ccccc1-n1nn[n:10]c1N.Cn1c[n+:21]([H:20])c2cncnc21>>Cc1ccccc1-n1nn[n+:10]([H:20])c1N.Cn1c[n:21]c2cncnc21 10=20;20,21=21",
"CC1=Nc2cc(C)ccc2[N:10]=C(C)C1.O=C1CSC(=S)[N:21]1[H:20]>>CC1=Nc2cc(C)ccc2[N+:10]([H:20])=C(C)C1.O=C1CSC(=S)[N-:21]1 10=20;20,21=21",
"COc1ccc2nccc(C(O)C3CCCC[NH:10]3)c2c1.C[NH+](C)CCOCC[N+:21](C)(C)[H:20]>>COc1ccc2nccc(C(O)C3CCCC[NH+:10]3[H:20])c2c1.C[NH+](C)CCOCC[N:21](C)C 10=20;20,21=21",
